US07247687B2
A mixture of freshly distilled TiCl4 (11 g, 58 mmol) and pyrocatechol (13.7 g, 0.124 mol) was refluxed in 80 mL of xylene during 20 hours. The resulting dark-brown solid was filtered, washed by xylene and dried under vacuum. Titanium catecholate (10.24 g, 66%) was isolated. This salt (2.3 g, 8.7 mmol), pyrocatechol (82.5 g, 0.749 mol), xylene (80 mL) and isobutylene (150 mL) were heated in autoclave during 1.5 hours at 140° C. The solvent was removed and the residue was distilled under vacuum (b.p. −140-145° C., ˜1 mm Hg; m.p. 96-96.5° C.). Yield: 157.4 g (95%). (Also see “Organic Chemistry of Free Radicals”, Moscow, Khimia, 1979, p. 134.)

reactant | TiCl4 | 58 mmol, 11 g | Cl[Ti](Cl)(Cl)Cl
reactant | pyrocatechol | 0.124 mol, 13.7 g | C=1(O)C(O)=CC=CC1 | C6H6O2
solvent | xylene | 80 mL | C=1(C(=CC=CC1)C)C | C8H10
product | Titanium catecholate | 10.24 g, 66% | C=1([O-])C([O-])=CC=CC1.[Ti+4].C=1([O-])C([O-])=CC=CC1 | InChI=1S/2C6H6O2.Ti/c2*7-5-3-1-2-4-6(5)8;/h2*1-4,7-8H;/q;;+4/p-4
